US07557114B2
1-(2,3-Dihydro-1H-isoindol-5-yl)-ethanone
To a stirred solution 0.72 mmol 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A38(b)) in 3 ml dioxane were added 0.05 mmol palladium(II) acetate and 0.22 mmol triphenylarsine and the mixture was stirred at RT for 10 min. 1.01 mmol 1-ethoxyvinyltributylstannane was then added and the mixture was heated at 100° C. for 16 h. The reaction mixture was then cooled to room temperature, filtered, and the filtrate was concentrated in vacuo. The residue was resuspended in THF, 25% aqueous hydrochloric acid was added, and the mixture was stirred at RT for 3 h. The mixture was then partitioned between ethyl acetate and water and the phases were separated. The aqueous phase was made alkaline to pH 14 by addition of 30% aqueous NaOH solution and then extracted with ethyl acetate. The organic phase was then washed with brine, dried over sodium sulfate, and concentrated in vacuo to yield the title compound as a brown solid (95% yield). MS (m/e): 162.6 ([M+H]+, 100%).

reactant | 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)I | C13H16INO2
reactant | triphenylarsine | 0.22 mmol | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | 1-ethoxyvinyltributylstannane | 1.01 mmol | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 0.05 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(2,3-Dihydro-1H-isoindol-5-yl)-ethanone | 95% yield | C1NCC2=CC(=CC=C12)C(C)=O | C10H11NO
